US05942530
A. Preparation of N-tert-butoxycarbonyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline
A suspension of 6-hydroxy-1,2,3,4-tetrahydroisoquinoline oxalate (0.17 mole, 40.04 g) in methanol (150 ml) and tetrahydrofuran (420 ml) was treated with diisopropylethylamine (0.38 mole, 48.50 g) then with a solution of di-tert-butyl dicarbonate (0.13 mole, 27.30 g) in tetrahydrofuran (10 ml). After stirring at room temperature for approximately 4 hours, the material was treated with methylene chloride (500 ml), brine (250 ml) and 10% aqueous sodium sulfate (250 ml). Phases were separated, the organic phase was washed with 10% aqueous sodium sulfate (3×250 ml), brine (1×250 ml) then dried over sodium sulfate, filtered and concentrated in vacuo to a solid. The material was treated with methylene chloride and chromatographed, eluting with 0 to 35% (ethyl acetate/hexane) gradient over a thirty minute period. Fractions containing the desired product were concentrated in vacuo to afford 27.63 g (66%) of the subtitled compound.

reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline oxalate | 0.17 mole, 40.04 g | C(C(=O)O)(=O)O.OC=1C=C2CCNCC2=CC1
reactant | diisopropylethylamine | 0.38 mole, 48.50 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 0.13 mole, 27.30 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium sulfate | 250 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | tetrahydrofuran | 420 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | brine | 250 ml | [Cl-].[Na+].O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-tert-butoxycarbonyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline | 27.63 g, 66% | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)O | C14H19NO3
